US04188488
Starting from 1-methyl-2-mercaptomethyl-pyrrole and N-ethylthiophthalimide there is obtained (1-methyl-2-pyrrolyl)methyl-ethyl-disulphide.

reactant | 1-methyl-2-mercaptomethyl-pyrrole | CN1C(=CC=C1)CS | C6H9NS
reactant | N-ethylthiophthalimide | C(C)N1C(C=2C(C1=O)=CC=CC2)=S | C10H9NOS
product | (1-methyl-2-pyrrolyl)methyl-ethyl-disulphide | CN1C(=CC=C1)CSSCC | C8H13NS2
